US09085540B2
To a mixture of 3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-isopropyl-5-[(3R)-pyrrolidin-3-yloxy]pyrazine-2-carboxamide (476 mg), chloroform (5 mL), and diisopropylethylamine (867 μL) was added acryloyl chloride (226 μL) at 0° C., followed by stirring at the same temperature for 1 hour. The solvent of the reactant was evaporated, and then to the obtained residue were added tetrahydrofuran (5 mL) and a 1 M aqueous sodium hydroxide solution (5 mL), followed by stirring at 50° C. for 4 hours. After leaving to be cooled, the mixture was extracted by the addition of chloroform, and the organic phase was dried over anhydrous sodium sulfate. After concentration under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=980:18:2-90:9:1), and then washed with diisopropyl ether to obtain 5-{[(3R)-1-acryloylpyrrolidin-3-yl]oxy}-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-isopropylpyrazine-2-carboxamide (343 mg) as a yellow solid.

reactant | 3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-isopropyl-5-[(3R)-pyrrolidin-3-yloxy]pyrazine-2-carboxamide | 476 mg | OCCN1N=CC(=C1)NC=1C(=NC(=C(N1)O[C@H]1CNCC1)C(C)C)C(=O)N | C17H25N7O3
reactant | diisopropylethylamine | 867 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acryloyl chloride | 226 μL | C(C=C)(=O)Cl | C3H3ClO
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-{[(3R)-1-acryloylpyrrolidin-3-yl]oxy}-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-isopropylpyrazine-2-carboxamide | 343 mg | C(C=C)(=O)N1C[C@@H](CC1)OC=1N=C(C(=NC1C(C)C)C(=O)N)NC=1C=NN(C1)CCO | C20H27N7O4
